US08097628B2
(e) 7-(Methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one
A mixture of butyl 3-[2-[(2,2-dimethylpropanoyl)amino]-6-(methyloxy)-3-pyridinyl]propanoate (86.01 g, 256 mmol) in hydrochloric acid (500 ml, 3000 mmol) (6M aqueous), was heated at 80° C. for 6 h. Reaction was cooled, treated with water (500 ml), transferred to a 5 L conical flask and carefully neutralised with solid K2CO3 (requires around 250 g) (much effervescence was observed). The mixture was then extracted with 20% MeOH/DCM (3×500 ml). The combined organic solvents were then dried (MgSO4), filtered, evaporated to give the crude product as a yellow solid (35.84 g, 79%).

reactant | butyl 3-[2-[(2,2-dimethylpropanoyl)amino]-6-(methyloxy)-3-pyridinyl]propanoate | 256 mmol, 86.01 g | CC(C(=O)NC1=NC(=CC=C1CCC(=O)OCCCC)OC)(C)C | C18H28N2O4
reactant | hydrochloric acid | 3000 mmol, 6M, 500 ml | Cl | ClH
reactant | K2CO3 | around 250 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 500 ml | O | H2O
product | 7-(Methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 35.84 g, 79% | COC1=CC=C2CCC(NC2=N1)=O | C9H10N2O2
